data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC=CCC_2-c1ccccc1C_3-CC(Cl)(Cl)Cl_4-CC(F)(F)F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC=CCCC(=O)[H]","c1ccccc1COC(=O)CP(=O)(OCC(Cl)(Cl)Cl)(OCC(F)(F)F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC=CCC/C=C\\C(=O)Oc1ccccc1C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1COC(=O)[CH-]P(=O)(OCC(Cl)(Cl)Cl)(OCC(F)(F)F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C(P(=O)(OCC(Cl)(Cl)Cl)(OCC(F)(F)F))C([O-])CC=CCC","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COC(=O)C1C(CC=CCC)OP1([O-])(OCC(Cl)(Cl)Cl)(OCC(F)(F)F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC=CCC/C=C\\C(=O)Oc1ccccc1C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-033_1-C(F)(F)F_2-OC_3-c1ccc(OC)cc1_4-C(F)(F)F_5-I_6-C_7-c1ccccc1","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)C(F)(F)F","c1(OC)c(c1ccc(OC)cc1)c(C(F)(F)F)c(I)c(C)c1(c1ccccc1)"],"products_smiles": ["[CH](C(=O)C(F)(F)F)1C(OC)=C(c1ccc(OC)cc1)C(C(F)(F)F)=C(I)C(C)=C1c1ccccc1"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)C(F)(F)F","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)C(F)(F)F)1C(OC)2C(c1ccc(OC)cc1)=C(C(F)(F)F)C(I)=C(C)C2(c1ccccc1)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)C(F)(F)F)1C(OC)=C(c1ccc(OC)cc1)C(C(F)(F)F)=C(I)C(C)=C1c1ccccc1","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
